US05232940
Tetracyanoethylene (1.9 g) and 2,6-dichloro-4-trifluoromethylphenylhydrazine (3.7 g) was added to a magnetically-stirred solution of sodium acetate (0.6 g) in glacial acetic acid (15 ml) at laboratory temperature. After stirring for 15 minutes, a colorless solid precipitated from the solution and stirring was continued overnight. The mixture was then filtered. The solid obtained was washed successively with acetic acid, water, aqueous sodium bicarbonate solution and water, to give 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3,4-dicyanopyrazole (2.5 g), as beige crystals, m.p. 221°-222° C.

reactant | Tetracyanoethylene | 1.9 g | C(#N)C(=C(C#N)C#N)C#N | C6N4
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 3.7 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | sodium acetate | 0.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3,4-dicyanopyrazole | 2.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#N | C12H4Cl2F3N5
